US05817823
3-N-Alkoxyimidazolium salts are also known. For example, 3-N-methoxy-1-N-methylbenzimidazolium iodide has been shown to react with methylamine to afford 1-methyl-2-methylaminobezimidazole in approximately 20% yield (S. Takahashi et al., Chem. Pharm. Bull. 14(4):375-385 (1966)). While this reaction was reported to proceed under relatively mild conditions (i.e., 20°-25° C. for 1 hour), the difficulty in obtaining large quantities of 3-N-oxide starting material renders this approach to 2-substituted imidazoles particularly undesirable.

reactant | 3-N-methoxy-1-N-methylbenzimidazolium iodide | [I-].CON1C=[N+](C2=C1C=CC=C2)C
reactant | methylamine | CN | CH5N
product | 1-methyl-2-methylaminobezimidazole | approximately 20% yield | CN1C(=NC2=C1C=CC=C2)NC | C9H11N3
